.subckt rff1_r CK D Q QB R VDD VSS
M33 NCK CK VDD VDD pchor1ex w=6u l=1u
M29 net104 R N003 VDD pchor1ex w=6u l=1u
M31 net92 R N006 VDD pchor1ex w=6u l=1u
M26 Q QB VDD VDD pchor1ex w=6u l=1u
M24 QB net92 VDD VDD pchor1ex w=6u l=1u
M18 net78 net116 N004 VDD pchor1ex w=6u l=1u
M17 net78 net74 N005 VDD pchor1ex w=6u l=1u
M16 N004 net104 VDD VDD pchor1ex w=6u l=1u
M15 N005 net92 VDD VDD pchor1ex w=6u l=1u
M14 N006 net78 VDD VDD pchor1ex w=6u l=1u
M13 N003 net114 VDD VDD pchor1ex w=6u l=1u
M12 N002 net104 VDD VDD pchor1ex w=6u l=1u
M11 N001 D VDD VDD pchor1ex w=6u l=1u
M10 net114 net116 N002 VDD pchor1ex w=6u l=1u
M9 net114 net74 N001 VDD pchor1ex w=6u l=1u
M8 net116 net74 VDD VDD pchor1ex w=6u l=1u
M7 net74 NCK VDD VDD pchor1ex w=6u l=1u
M32 NCK CK VSS VSS nchor1ex w=2u l=1u
M27 Q QB VSS VSS nchor1ex w=2u l=1u
M25 QB net92 VSS VSS nchor1ex w=2u l=1u
M23 net78 net74 N009 VSS nchor1ex w=2u l=1u
M22 N009 net104 VSS VSS nchor1ex w=2u l=1u
M21 net78 net116 N010 VSS nchor1ex w=2u l=1u
M20 N010 net92 VSS VSS nchor1ex w=2u l=1u
M19 net92 net78 VSS VSS nchor1ex w=2u l=1u
M30 net92 R VSS VSS nchor1ex w=2u l=1u
M28 net104 R VSS VSS nchor1ex w=2u l=1u
M6 net116 net74 VSS VSS nchor1ex w=2u l=1u
M5 net74 NCK VSS VSS nchor1ex w=2u l=1u
M4 net104 net114 VSS VSS nchor1ex w=2u l=1u
M3 N008 net104 VSS VSS nchor1ex w=2u l=1u
M2 net114 net74 N008 VSS nchor1ex w=2u l=1u
M1 N007 D VSS VSS nchor1ex w=2u l=1u
M0 net114 net116 N007 VSS nchor1ex w=2u l=1u
.ends rff1_r