.subckt an21 A B VDD VSS Y
M5 Y net26 VSS VSS nchor1ex w=2u l=1u
M4 N001 B VSS VSS nchor1ex w=2u l=1u
M3 net26 A N001 VSS nchor1ex w=2u l=1u
M2 Y net26 VDD VDD pchor1ex w=6u l=1u
M1 net26 A VDD VDD pchor1ex w=6u l=1u
M0 net26 B VDD VDD pchor1ex w=6u l=1u
.ends an21