.subckt na31 A B C VDD VSS X
M6 X C VDD VDD pchorex1 w=6u l=1u
M5 X B VDD VDD pchorex1 w=6u l=1u
M4 X A VDD VDD pchorex1 w=6u l=1u
M2 X C N001 VSS nchorex1 w=2u l=1u
M1 N001 B N002 VSS nchorex1 w=2u l=1u
M0 N002 A VSS VSS nchorex1 w=2u l=1u
.ends na31