.subckt an21 A B VDD VSS Y
M5 Y net26 VSS VSS nchorex1 w=2u l=1u
M4 N001 B VSS VSS nchorex1 w=2u l=1u
M3 net26 A N001 VSS nchorex1 w=2u l=1u
M2 Y net26 VDD VDD pchorex1 w=6u l=1u
M1 net26 A VDD VDD pchorex1 w=6u l=1u
M0 net26 B VDD VDD pchorex1 w=6u l=1u
.ends an21