.subckt exor A B VDD VSS X
M9 net106 A VDD VDD pchor1ex w=6u l=1u
M8 net106 B VDD VDD pchor1ex w=6u l=1u
M7 X net134 net106 VDD pchor1ex w=6u l=1u
M6 N001 A VDD VDD pchor1ex w=6u l=1u
M5 net134 B N001 VDD pchor1ex w=6u l=1u
M4 X net134 VSS VSS nchor1ex w=2u l=1u
M3 N002 B VSS VSS nchor1ex w=2u l=1u
M2 X A N002 VSS nchor1ex w=2u l=1u
M1 net134 B VSS VSS nchor1ex w=2u l=1u
M0 net134 A VSS VSS nchor1ex w=2u l=1u
.ends exor