.subckt na21 A B VDD VSS X
M4 N001 A VSS VSS nchorex1 w=2u l=1u
M3 X B N001 VSS nchorex1 w=2u l=1u
M1 X B VDD VDD pchorex1 w=6u l=1u
M0 X A VDD VDD pchorex1 w=6u l=1u
.ends na21